US05135932
6-[4-[2-[3-(4-(2-Phenoxyethoxy-methyl)phenoxy)-2-hydroxypropylamino]ethoxy]-3-methyl-phenyl]-4,5-dihydro-3-(2H)-pyridazinone
Prepared analogously to Example 1 from 1-[4-(2-phenoxyethoxymethyl)phenoxy]-2,3-epoxypropane and 6-[4-(2-aminoethoxy)-3-methyl-phenyl]-4,5-dihydro-3-(2H)-pyridazinone.

reactant | 1-[4-(2-phenoxyethoxymethyl)phenoxy]-2,3-epoxypropane | O(C1=CC=CC=C1)CCOCC1=CC=C(OCC2CO2)C=C1 | C18H20O4
reactant | 6-[4-(2-aminoethoxy)-3-methyl-phenyl]-4,5-dihydro-3-(2H)-pyridazinone | NCCOC1=C(C=C(C=C1)C=1CCC(NN1)=O)C | C13H17N3O2
product | 6-[4-[2-[3-(4-(2-Phenoxyethoxy-methyl)phenoxy)-2-hydroxypropylamino]ethoxy]-3-methyl-phenyl]-4,5-dihydro-3-(2H)-pyridazinone | O(C1=CC=CC=C1)CCOCC1=CC=C(OCC(CNCCOC2=C(C=C(C=C2)C=2CCC(NN2)=O)C)O)C=C1 | C31H37N3O6
